US09351974B2
Step e: 3-[(7S)-2-chloro-8-cyclopentyl-7-(fluoromethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile
To a stirred solution of 3-[(7R)-2-chloro-8-cyclopentyl-7-(hydroxymethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile (94 mg, 0.24 mmol) in anhydrous DCM (3 mL) was added diethylaminosulfur trifluoride (39 μL, 0.29 mmol) at −78° C. under nitrogen. The mixture was allowed to warm to rt and stirred for 18 h. The mixture was then cooled to 0° C. and quenched by saturated aqueous NaHCO3 solution. The mixture was extracted with DCM (30 mL×2) and the combined organic layers were dried over Na2SO4, concentrated in vacuo to give a crude residue, which was purified using a silica gel flash chromatography [eluent: 0-50% EtOAc/Heptane] to afford the desired compound (24 mg, 25%). 1H NMR (400 MHz, CD3OD): δ 7.89-7.94 (m, 1H), 7.74-7.80 (m, 2H), 7.61-7.66 (m, 1H), 7.01 (s, 1H), 4.87-5.00 (m, 1H), 4.70-4.83 (m, 1H), 4.31 (quin, J=8.4 Hz, 1H), 2.08-2.19 (m, 2H), 1.97-2.07 (m, 4H), 1.61-1.76 (m, 2H). MS (ES+): m/z=386.32/388.29 [MH+]. UPLC: tR=1.33 min (TOF: polar_2 min).

reactant | 3-[(7R)-2-chloro-8-cyclopentyl-7-(hydroxymethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | 0.24 mmol, 94 mg | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)CO)C1CCCC1 | C19H18ClN5O2
reactant | diethylaminosulfur trifluoride | 0.29 mmol, 39 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-[(7S)-2-chloro-8-cyclopentyl-7-(fluoromethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | 24 mg, 25% | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)CF)C1CCCC1 | C19H17ClFN5O
